US05087621
By a procedure completely analogous to that described in Example 2, 9-cyclopropyl-6-fluoro-7-{3-[N-(methyl)trifluoroacetamido]-3-methyl-1-azetidinyl}-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione, melting point 286°-290° C., is obtained, which product is hydrolyzed by heating it with 10% sodium hydroxide for 2 hours; 9-cyclopropyl-6-fluoro-7-(3-methylamino-3-methyl-1-azetidinyl)-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione, melting point 300° C., is obtained.

reactant | 9-cyclopropyl-6-fluoro-7-{3-[N-(methyl)trifluoroacetamido]-3-methyl-1-azetidinyl}-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione | C1(CC1)N1C2=C(C(C3=CC(=C(C=C13)N1CC(C1)(C)N(C(C(F)(F)F)=O)C)F)=O)C(NS2)=O | C20H18F4N4O3S
reactant | sodium hydroxide | [OH-].[Na+]
product | 9-cyclopropyl-6-fluoro-7-(3-methylamino-3-methyl-1-azetidinyl)-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione | C1(CC1)N1C2=C(C(C3=CC(=C(C=C13)N1CC(C1)(C)NC)F)=O)C(NS2)=O | C18H19FN4O2S
